US06228808B1
2.6 g (8.6 mmol) of methyl 4-isopropylcarbamoyl-2-sulfamoylbenzoate and 2.8 g (10.3 mmol) of phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate were initially charged in 50 ml of acetonitrile. At room temperature, 2.9 g (19 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) were added dropwise, and the mixture was stirred at this temperature for 3 h. The mixture was poured into ice-water and the pH was adjusted to 1 using 2N hydrochloric acid. The precipitated solid was filtered off with suction and washed with water. After drying, 3.9 g (94% of theory) of methyl 2-[3-(4,6-dimethoxypyrimidin-2-yl)ureidosulfonyl]-4-isopropylcarbamoylbenzoate of m.p. 149-151° C. (decomp.) were obtained.

reactant | methyl 4-isopropylcarbamoyl-2-sulfamoylbenzoate | 8.6 mmol, 2.6 g | C(C)(C)NC(=O)C1=CC(=C(C(=O)OC)C=C1)S(N)(=O)=O | C12H16N2O5S
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 10.3 mmol, 2.8 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 19 mmol, 2.9 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | methyl 2-[3-(4,6-dimethoxypyrimidin-2-yl)ureidosulfonyl]-4-isopropylcarbamoylbenzoate | 3.9 g, 94% | COC1=NC(=NC(=C1)OC)NC(NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)C(NC(C)C)=O)=O | C19H23N5O8S
